US08034812B2
To a suspension of sodium hydride (1.62 g, 40.4 mmol) in N,N-dimethylformamide (250 mL) was added dropwise a solution of ethyl 3-methyl-1H-pyrazole-5-carboxylate (5660 mg, 36.8 mmol) in N,N-dimethylformamide (50 mL) over 10 min under ice-cooling. After the completion of the dropwise addition, the reaction mixture was stirred at 0° C. for 10 min and at room temperature for 40 min. To the mixture was added 2,2,2-trifluoroethyl trifluoromethanesulfonate (9.87 g, 40.4 mmol), and the mixture was stirred at room temperature for 3 hr. Under ice-cooling, 1N hydrochloric acid (36 mL) was added to the mixture, and the solvent was evaporated under reduced pressure. Ethyl acetate/tetrahydrofuran and saturated aqueous sodium hydrogencarbonate solution were added to the residue, and the aqueous layer was extracted three times with ethyl acetate/tetrahydrofuran. Combined organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=5/95→60/40), and recrystallized from ethyl acetate/hexane to give ethyl 3-methyl-1-(2,2,2-trifluoroethyl)-1H-pyrazole-5-carboxylate (1.98 g, 23%) as white crystals.

reactant | sodium hydride | 40.4 mmol, 1.62 g | [H-].[Na+]
reactant | ethyl 3-methyl-1H-pyrazole-5-carboxylate | 36.8 mmol, 5660 mg | CC1=NNC(=C1)C(=O)OCC | C7H10N2O2
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | 40.4 mmol, 9.87 g | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
reactant | hydrochloric acid | 1N, 36 mL | Cl | ClH
solvent | N,N-dimethylformamide | 250 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | ethyl 3-methyl-1-(2,2,2-trifluoroethyl)-1H-pyrazole-5-carboxylate | 1.98 g, 23% | CC1=NN(C(=C1)C(=O)OCC)CC(F)(F)F | C9H11F3N2O2
